US05656261
3-Amino-4,5-dimethylthiazolium mesitylenesulfonate
An ice cold solution of the 4,5-dimethyl thiazole (2,26 g, 20 mmol) in dry dichloromethane (15 ml) was treated dropwise with a solution of o-mesitylenesulfonylhydroxylamine (4.3 g, 20 mmol) in dry dichloromethane (15 ml). After stirring for 2 hours at room temperature, anhydrous ether (10 ml) was added. On cooling, colorless needles of the title product, 3-amino-4,5-dimethyl-thiazolium mesitylenesulfonate, separated (3.48 g), m.p. 165°-168° C.

reactant | 4,5-dimethyl thiazole | 20 mmol, 2,26 g | CC=1N=CSC1C | C5H7NS
reactant | o-mesitylenesulfonylhydroxylamine | 20 mmol, 4.3 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)NO)C | C9H13NO3S
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-Amino-4,5-dimethylthiazolium mesitylenesulfonate | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)[O-])C.N[N+]1=CSC(=C1C)C | InChI=1S/C9H12O3S.C5H9N2S/c1-6-4-7(2)9(8(3)5-6)13(10,11)12;1-4-5(2)8-3-7(4)6/h4-5H,1-3H3,(H,10,11,12);3H,6H2,1-2H3/q;+1/p-1
